US08258130B2
2-Phenyl-pyrimidine-5-carboxylic acid (hexahydro-cyclopenta[c]pyrrol-2-yl)-amide
Following procedures similar to those of Example 64 but substituting hexahydro-cyclopenta[c]pyrrol-2-ylamine for 3-{3-amino-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-propionic acid methyl ester, there is prepared 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (hexahydro-cyclopenta[c]pyrrol-2-yl)-amide (39%) as a solid. MS: 309 (M+H); 1H NMR (300 MHz, CDCl3): δ 1.20-1.90 (m, 6H), 2.40-3.50 (m, 6H), 6.94 (s, N—H), 7.52 (s, 3H), 8.50 (s, 2H), 9.08-9.38 (d, 2H).

reactant | hexahydro-cyclopenta[c]pyrrol-2-ylamine | C1N(CC2C1CCC2)N | C7H14N2
reactant | 3-amino-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-propionic acid methyl ester | COC(CCC=1C(N(C(NC1)=O)N)=O)=O | C8H11N3O4
reactant | 2-(3-fluoro-phenyl)-pyrimidine-5-carboxylic acid (hexahydro-cyclopenta[c]pyrrol-2-yl)-amide | C1N(CC2C1CCC2)NC(=O)C=2C=NC(=NC2)C2=CC(=CC=C2)F | C18H19FN4O
product | 2-Phenyl-pyrimidine-5-carboxylic acid (hexahydro-cyclopenta[c]pyrrol-2-yl)-amide | C1N(CC2C1CCC2)NC(=O)C=2C=NC(=NC2)C2=CC=CC=C2 | C18H20N4O
